US07902197B2
A mixture of 1-[2-(benzhydrylidene-amino)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.670 g, 1.31 mmol), sodium acetate (0.258 g, 3.14 mmol) and hydroxylamine hydrochloride (0.164 g, 2.36 mmol) in 13 mL of methanol was stirred for 1 h, then concentrated to a residue. Column chromatography (10→50% EtOAc/hexanes) afforded 0.359 g (79%) of 1-[2-amino-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a white solid.

reactant | 1-[2-(benzhydrylidene-amino)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 1.31 mmol, 0.670 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C30H36N4O2Si
reactant | sodium acetate | 3.14 mmol, 0.258 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 2.36 mmol, 0.164 g | Cl.NO
solvent | methanol | 13 mL | CO | CH4O
product | 1-[2-amino-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.359 g, 79% | NC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C17H28N4O2Si
